US09422232B2
Chlorotrimethylsilane (2.3 mL, 18.4 mmol) was added dropwise to a solution of methyl 4-(hydroxymethyl)benzoate (2.0 g, 12.0 mmol) and triethylamine (3.3 mL, 23.7 mmol) in anhydrous THF (80 ml) cooled to 0° C. A precipitate formed and the stirring was continued at 0° C. for 1 h. The mixture was diluted with hexanes (50 mL) and precipitates eliminated by vacuum filtration through a sintered funnel. Volatiles were removed by rotary evaporation. The residue was purified by flash chromatography (DCM:Hex 1:1+1% TEA) through a short silica column providing methyl 4-[(trimethylsiloxy)methyl]benzoate as a clear liquid in a yield of 2.5 g (87%). 1H-NMR (500 MHz, CDCl3): δ=0.16 ppm (s, 9H), 3.90 ppm (s, 3H), 4.74 ppm (s, 2H), 7.38 ppm (d, J=8.0 Hz, 2H), 8.00 ppm (d, J=8.0 Hz, 2H); 13C-NMR (500 MHz, CDCl3): δ=−0.41, 52.09, 64.12, 126.08, 128.90, 129.68, 146.39, 167.10 ppm. HRMS [+Scan]; calculated m/z for C12H19O3Si 239.1098; observed mass: 239.1095.

reactant | Chlorotrimethylsilane | 18.4 mmol, 2.3 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | methyl 4-(hydroxymethyl)benzoate | 12.0 mmol, 2.0 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | triethylamine | 23.7 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | methyl 4-[(trimethylsiloxy)methyl]benzoate | C[Si](OCC1=CC=C(C(=O)OC)C=C1)(C)C | C12H18O3Si
